US06066641
d) 6-Amino-1-(3-chlorobenzyl)-5-nitroso-uracil
6.4 ml of 4N sodium nitrite was added at 65-70° C. to a suspension of 6.29 g (25 mM) of 6-amino-1-(3-chlorobenzyl)-uracil in 92 ml of acetic acid. After 30 minutes the mixture was cooled, the solid collected and washed with the acetic acid and water to give the title compound (5.21 g) as a pink solid.

reactant | sodium nitrite | 4N, 6.4 ml | N(=O)[O-].[Na+]
reactant | 6-amino-1-(3-chlorobenzyl)-uracil | 25 mM, 6.29 g | NC1=CC(NC(N1CC1=CC(=CC=C1)Cl)=O)=O | C11H10ClN3O2
solvent | acetic acid | 92 ml | C(C)(=O)O | C2H4O2
product | 6-Amino-1-(3-chlorobenzyl)-5-nitroso-uracil | 5.21 g | NC1=C(C(NC(N1CC1=CC(=CC=C1)Cl)=O)=O)N=O | C11H9ClN4O3
